US04469868
A mixture of 16 g (0.083 mol) of 3,5-dimethyl-1-ethyl-7-hydroxy-1H-pyrazolo[4,3-d]pyrimidine and 18.5 g (0.087 mol) of phosphorus pentachloride in 120 ml of phosphorus oxychloride is stirred under reflux five hours. The solution is evaporated in vacuo. The residue is redissolved in ether and percolated over neutral alumina to yield 15 g of 7-chloro-3,5-dimethyl-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine, a low-melting waxy solid (40°-50° C.).

reactant | 3,5-dimethyl-1-ethyl-7-hydroxy-1H-pyrazolo[4,3-d]pyrimidine | 0.083 mol, 16 g | CC1=NN(C2=C1N=C(N=C2O)C)CC | C9H12N4O
reactant | phosphorus pentachloride | 0.087 mol, 18.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 120 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-3,5-dimethyl-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine | 15 g | ClC=1C2=C(N=C(N1)C)C(=NN2CC)C | C9H11ClN4
